data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2537,2817,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][NH:26][C:27](=[O:28])[N:29]=[N+:30]([CH3:31])[N-:32][C:33]([CH3:34])=[O:35]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[N:32]([C:33]([CH3:34])=[O:35])[N:30]([CH3:31])[N:29]2[C:27]([NH:26][CH3:25])=[O:28],water,298.15,19.48361645197905,-35.686031989045354
3972,4545,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,31.26075603109723,-5.760870058847266
4591,5236,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11](=[O+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:11]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[O:12][N:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,15.614262929435966,-32.35677835171787
4466,5098,[CH3:6][C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:16]([C:17]#[N:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]([CH3:15])[C:7]1([CH3:6])[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,water,298.15,48.76562940135908,27.219233752278324
2410,2678,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[O+:22][N-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[C:30](=[O:31])[O:32][CH3:33].[CH3:1][C:2](=[O:3])/[C:4](=[C:5](/[C:6]([CH3:7])=[O:8])[C:9]([F:10])([F:11])[F:12])[C:13]([F:14])([F:15])[F:16]>>[CH3:1][C:2](=[O:3])[C@:4]1([C:13]([F:14])([F:15])[F:16])[C@:5]([C:6]([CH3:7])=[O:8])([C:9]([F:10])([F:11])[F:12])[N:23]([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[O:22][C:21]1([C:19]([NH:18][CH3:17])=[O:20])[C:30](=[O:31])[O:32][CH3:33],water,298.15,23.72441392819741,-9.274216841081635
1894,2099,[CH3:16][N-:17][O+:18]=[C:19]([C:20](=[O:21])[O:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:19]([C:20](=[O:21])[O:22][CH3:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:18][N:17]2[CH3:16],water,298.15,10.194511044535492,-62.16013527580244
1863,2066,[CH3:11][C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:12]([CH3:11])([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N:19]([CH3:20])[C:21]3([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,25.48035249034172,-37.285428695910646
3161,3567,[CH3:9][C:10]#[N+:11][CH-:12][C:13](=[O:14])[NH:15][CH3:16].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:12]([C:13](=[O:14])[NH:15][CH3:16])[N:11]=[C:10]1[CH3:9],water,298.15,12.907049971558424,-45.896864579291794
3102,3492,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C-:8]([C:9]#[N:10])[N+:11]([CH3:12])=[CH:13][C:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:8]([CH3:7])([C:9]#[N:10])[N:11]([CH3:12])[CH:13]1[C:14]#[N:15],water,298.15,23.911214481967274,-21.9955546599743
83,94,[CH2:10]=[N+:11]([CH3:12])[N-:13][C:14]([CH3:15])=[O:16].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:13]([C:14]([CH3:15])=[O:16])[N:11]([CH3:12])[CH2:10]3,water,298.15,20.910631887061328,-38.58046201911324
4799,5478,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,28.44666156724166,-18.38485036014704
3787,4337,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[CH:7]=[N+:8]([CH3:9])[C-:10]([C:11](=[O:12])[O:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]1[CH2:2][C:10]([C:11](=[O:12])[O:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:8]([CH3:9])[CH:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,14.10316276412136,-35.43355071786965
